US07012066B2
To a solution of tert-butyl N-tert-butoxycarbonyl-4,4-dimethylpyroglutamate (2.0 mmol) in tetrahydrofuran (5 mL) stirring at −78° C., was added a 1M solution of lithium triethylborohydride in tetrahydrofuran (2.4 mL, 2.4 mmol) dropwise over 5 minutes. After 30 minutes, the cooling bath was removed and saturated aqueous sodium bicarbonate (5 mL) was added. The reaction mixture was immersed in an ice/water bath and 30% aqueous hydrogen peroxide (10 drops) was added. The solution was stirred for 20 minutes at 0° C., then the reaction mixture was concentrated in vacuo to remove the tetrahydrofuran. The aqueous solution was diluted with water (10 mL) and extracted with dichloromethane (3×40 mL). The organic layers were dried (Na2SO4), filtered and concentrated. The residue was dissolved in dichloromethane (20 mL) and triethylsilane (310 μL, 2.0 mmol), then cooled to −78° C. and boron trifluoride diethyletherate (270 μL, 2.13 mmol) was added dropwise. Stirring was continued for 30 minutes, at which time additional triethylsilane (310 μL, 2.0 mmol) and boron trifluoride diethyletherate (270 μL, 2.13 mmol) were added. After stirring at −78° C. for an additional two hours, the cooling bath was removed and saturated aqueous sodium bicarbonate (4 mL) was added. After 5 minutes the mixture was extracted with dichloromethane (3×40 mL). The organic layers were dried (Na2SO4), filtered and concentrated to give Boc-Pro(4,4-dimethyl)-OtBu. Step 4. Synthesis of 4,4-Dimethylproline (H-Pro(4,4-dimethyl)—OH):

reactant | tert-butyl N-tert-butoxycarbonyl-4,4-dimethylpyroglutamate | 2.0 mmol | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1=O)(C)C)C(=O)OC(C)(C)C | C16H27NO5
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | triethylsilane | 2.0 mmol, 310 μL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | triethylsilane | 2.0 mmol, 310 μL | C(C)[SiH](CC)CC | C6H16Si
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2.4 mmol, 2.4 mL | O1CCCC1 | C4H8O
product | tert-butyl N-tert-butoxycarbonyl-4,4-dimethylproline | C(C)(C)(C)[C@@]1(N(CC(C1)(C)C)C(=O)OC(C)(C)C)C(=O)O | C16H29NO4
